US05382379
Lithiumaluminium hydride (2.2 g) was added to a solution of 4-(3',4',5'-trifluorophenyl)ethoxycarbonylmethylcyclohexane (17.2 g) in THF (100 ml), followed by stirring the mixture at room temperature for 2 hours, adding ethyl acetate (100 ml) little by little after completion of the reaction, further adding 2N hydrochloric acid (50 ml), washing the organic layer with water, drying over anhydrous MgSO4 and concentrating the solvent under reduced pressure, to obtain 4-(3',4',5'-trifluorophenyl)-1-(2'hydroxyethyl)cyclohexane (10.4 g).

reactant | Lithiumaluminium hydride | 2.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(3',4',5'-trifluorophenyl)ethoxycarbonylmethylcyclohexane | 17.2 g | FC=1C=C(C=C(C1F)F)CCOC(=O)CC1CCCCC1 | C16H19F3O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(3',4',5'-trifluorophenyl)-1-(2'hydroxyethyl)cyclohexane | 10.4 g | FC=1C=C(C=C(C1F)F)C1CCC(CC1)CCO | C14H17F3O
